US04379788
(b) 2-(4-Hydroxy-phenyl)-3-methyl-6-methoxy-3,4-dihydro-quinazolin-4-one
80.3 gm (0.247 mol) of 2-(4-acetoxy-phenyl)-3-methyl-6-methoxy-3,4-dihydro-quinazolin-4-one were suspended in 800 ml of concentrated aqueous ammonia, and the suspension was heated for 1.5 hours on a steam bath, whereby at first a clear solution was obtained, and after about 60 minutes the formation of a white precipitate began. After cooling to 0° C., the product was suction-filtered off, washed with water and dried at 80° C. in a circulating air drier.

reactant | 2-(4-acetoxy-phenyl)-3-methyl-6-methoxy-3,4-dihydro-quinazolin-4-one | 0.247 mol, 80.3 gm | C(C)(=O)OC1=CC=C(C=C1)C1=NC2=CC=C(C=C2C(N1C)=O)OC | C18H16N2O4
solvent | ammonia | 800 ml | N | H3N
product | 2-(4-Hydroxy-phenyl)-3-methyl-6-methoxy-3,4-dihydro-quinazolin-4-one | OC1=CC=C(C=C1)C1=NC2=CC=C(C=C2C(N1C)=O)OC | C16H14N2O3
